US08044043B2
(E)-6-(2,5-Difluorophenyl)-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol.
TBAF (0.954 mL, 0.954 mmol) was added to the THF (5 mL) solution of (E)-6-(2,5-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine (0.2049 g, 0.477 mmol) at rt. The reaction was stirred at room temperature for 6 hours. The solvent was removed via vacuum and the product was purified by flash column eluted with ethyl acetate in hexane from 0 to 50% to 100% (102.2 mg, 78%). MS(ESI)[M+H+]=274.23 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.37 (dd, J=4.78, 1.26 Hz, 1 H) 7.51 (dd, J=7.81, 1.26 Hz, 1 H) 7.17-7.27 (m, 1 H) 6.87-7.05 (m, 3 H) 6.44 (s, 1 H) 5.74 (br.s., 1 H) 4.77 (dd, J=10.45, 2.64 Hz, 1 H) 2.79-2.93 (m, 1 H) 2.66-2.77 (m, 1 H) 2.48-2.60 (m, J=13.53, 5.45, 5.45, 2.77 Hz, 1 H) 1.97 -2.11 (m, 1 H).

reactant | TBAF | 0.954 mmol, 0.954 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (E)-6-(2,5-difluorophenyl)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine | 0.477 mmol, 0.2049 g | FC1=C(C=C(C=C1)F)/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C25H33F2NOSi
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (E)-6-(2,5-Difluorophenyl)-8,9-dihydro-7H-cyclohepta[b]pyridin-9-ol | FC1=C(C=C(C=C1)F)/C/1=C/C=2C(=NC=CC2)C(CC1)O | C16H13F2NO
